US04883794
5-Benzylpyrrolo[1,2-b]cinnolin-10(5H)-one
A stirred slurry containing pyrrolo[1,2-b]cinnolin-10(5H)-one (4.0 g) and potassium carbonate (11.2 g) in 100 ml of 2-butanone was treated with benzyl bromide (4.0 g) and the mixture was stirred at 60°. After 4 h the mixture was quenched with 700 ml of H2O and extracted with two 150 ml portions of dichloromethane. These organic extracts were dried over MgSO4, filtered and concentrated to a green oil. This oil was purified by flash chromatography (silica, dichloromethane) to a yellow solid which was recrystallized from dichloromethane to give 3.5 g of bright yellow crystals, mp 146°-148°.

reactant | pyrrolo[1,2-b]cinnolin-10(5H)-one | 4.0 g | C=1C=CN2NC=3C=CC=CC3C(C21)=O | C11H8N2O
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.0 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | 2-butanone | 100 ml | CC(CC)=O | C4H8O
product | 5-Benzylpyrrolo[1,2-b]cinnolin-10(5H)-one | 3.5 g | C(C1=CC=CC=C1)N1N2C(C(C=3C=CC=CC13)=O)=CC=C2 | C18H14N2O
